US06888032B2
The general procedure in example 39 was followed. 3-Iodobenzonitrile (229 mg, 1.0 mmol), thiophenol (103 μL, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 mL) were used to obtain the 3-cyanophenyl phenyl sulfide (181 mg, 86% yield) as colorless liquid. Column chromatography solvent (hexane/ethyl acetate=25/1). Rf=0.4 (hexane/ethyl acetate=20/1). 1H NMR (CDCl3, 300 MHz) δ 7.30-7.45 (m, 9 H). 13C NMR (CDCl3, 75 MHz) δ 140.2, 133.6, 132.9, 132.3, 131.7, 130.0, 129.7, 129.6, 129.1, 118.5, 113.5. MS (EI) m/z (relative intensity) 211 (30), 185 (20), 134 (100).

reactant | 3-Iodobenzonitrile | 1.0 mmol, 229 mg | IC=1C=C(C#N)C=CC1 | C7H4IN
reactant | thiophenol | 1.0 mmol, 103 μL | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 3-cyanophenyl phenyl sulfide | 181 mg, 86% yield | C1(=CC=CC=C1)SC1=CC(=CC=C1)C#N | C13H9NS
